* Netlist snapshot for record 20260916-110512-3038a92 -- exactly what was simulated.
* DUT: comparator-dr0001 (schematic), design/comparator.spice
* Testbench: sim/comparator-regeneration/testbench/tb_regeneration.spice
* ---------------- DUT NETLIST ----------------
* ============================================================================
* sg13g2-comparator -- DERIVED NETLIST.  DO NOT EDIT BY HAND.
* ============================================================================
*
* Generated from the xschem sources in design/ by:
*
*     python3 design/netlist.py
*
* The schematics are the source of record:
*
*   design/comparator.sch              the design -- a single-tail StrongARM
*                                      dynamic latch (spec/decision-records/
*                                      0001-comparator-topology.md), plus the
*                                      isolation inverters and NOR SR latch
*                                      that make its outputs HELD between
*                                      strobes as the interface contract
*                                      requires
*   design/comparator_dut.sch          contract wrapper: tail-bias reference
*                                      on the `ibias` pin + the core
*   design/comparator_dut_latch.sch    contract wrapper: the core with its
*                                      tail-bias node tied to vdd
*   design/comparator_dut_analog.sch   the LOOP-BROKEN reduced sub-model --
*                                      an offset/noise LOWER BOUND, not the
*                                      design's front end.  Read
*                                      design/README.md before quoting any
*                                      number measured against it.
*
* Interface contract: sim/dut/README.md.  Asserted at generation time by
* design/netlist.py (against sim/harness/dut.py's own REQUIRED_SUBCKTS) and
* again at load time by the harness.
*
* Parameters supplied by the harness, not by this file: dut_ib, dut_vcm,
* vdd_val, vdd_nom, temp_c (sim/harness/runner.py compose_deck).  This file
* deliberately contains no .include / .lib / .temp / .control / .endc / .end.
* ============================================================================

.subckt comparator vinp vinn clk vbias dout doutb vdd vss
*.iopin vinp
*.iopin vinn
*.iopin clk
*.iopin vbias
*.iopin dout
*.iopin doutb
*.iopin vdd
*.iopin vss
XMT tmid vbias vss vss sg13_lv_nmos w=40u l=0.5u ng=1 m=1
XMSW tail clk tmid vss sg13_lv_nmos w=40u l=0.13u ng=1 m=1
XM1 np vinp tail vss sg13_lv_nmos w=12u l=0.34u ng=1 m=1
XM2 nn vinn tail vss sg13_lv_nmos w=12u l=0.34u ng=1 m=1
XM3 ln lp np vss sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XM4 lp ln nn vss sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XM5 ln lp vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XM6 lp ln vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XM7 ln clk vdd vdd sg13_lv_pmos w=6u l=0.13u ng=1 m=1
XM8 lp clk vdd vdd sg13_lv_pmos w=6u l=0.13u ng=1 m=1
XM9 np clk vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XM10 nn clk vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XMIAP lnb ln vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XMIAN lnb ln vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMIBP lpb lp vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XMIBN lpb lp vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMNAP1 na lnb vdd vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
XMNAP2 doutb dout na vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
XMNAN1 doutb lnb vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMNAN2 doutb dout vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMNBP1 nb lpb vdd vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
XMNBP2 dout doutb nb vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
XMNBN1 dout lpb vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMNBN2 dout doutb vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
.ends

.subckt comparator_dut_analog vinp vinn ibias aop aon vdd vss
*.iopin vinp
*.iopin vinn
*.iopin ibias
*.iopin aop
*.iopin aon
*.iopin vdd
*.iopin vss
XMBA ibias ibias vss vss sg13_lv_nmos w=10u l=0.5u ng=1 m=1
XMTA tmid ibias vss vss sg13_lv_nmos w=40u l=0.5u ng=1 m=1
XMSWA tail vdd tmid vss sg13_lv_nmos w=40u l=0.13u ng=1 m=1
XM1A aon vinp tail vss sg13_lv_nmos w=12u l=0.34u ng=1 m=1
XM2A aop vinn tail vss sg13_lv_nmos w=12u l=0.34u ng=1 m=1
XM5A aon aon vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XM6A aop aop vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
.ends

.subckt comparator_dut_latch inp inn clk dout doutb vdd vss
*.iopin inp
*.iopin inn
*.iopin clk
*.iopin dout
*.iopin doutb
*.iopin vdd
*.iopin vss
x1 inp inn clk vdd dout doutb vdd vss comparator
.ends

.subckt comparator_dut vinp vinn clk ibias dout doutb vdd vss
*.iopin vinp
*.iopin vinn
*.iopin clk
*.iopin ibias
*.iopin dout
*.iopin doutb
*.iopin vdd
*.iopin vss
XMB ibias ibias vss vss sg13_lv_nmos w=10u l=0.5u ng=1 m=1
x1 vinp vinn clk ibias dout doutb vdd vss comparator
.ends

* ---------------- TESTBENCH FRAGMENT ----------------
* tb_regeneration -- decision time versus input overdrive, the regeneration
* time constant tau extracted from it, and the switching energy per decision.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* section, .temp, the DUT netlist, the .control block and .end
* (sim/harness/README.md). Parameters from the harness: vdd_val, vdd_nom,
* temp_c, dut_ib, dut_vcm.
*
* METHODOLOGY PORTED FROM gf180-comparator/sim/comparator-regeneration/
* (itself ported from gf180-sar-adc) -- see this experiment's README.md for
* the full transfer/non-transfer list.
*
* WHAT THIS ANSWERS
*
* 1. Is the decision complete inside the budget at the WORST PVT corner,
*    rather than at a typical-corner estimate? README.md's decision-time row
*    is stated at 50 mV overdrive, so 50 mV is the primary rung of the
*    ladder below.
*
* 2. The regeneration time constant tau, EXTRACTED rather than assumed. A
*    regenerative latch resolves in t = t0 + tau*ln(V_logic/(A_v*V_in)), so
*    the delay difference between two KNOWN overdrives gives tau directly:
*        tau = (t(V_small) - t(V_large)) / ln(V_large/V_small)
*    Everything downstream -- the metastability window -- is computed from
*    tau, so tau is the quantity that must be measured, not the delay at one
*    overdrive. Metastability is a FIRST-CLASS ROW of this bench, per
*    CLAUDE.md: td_od01 is deliberately an overdrive small enough to sit
*    inside the near-metastable region.
*
* 3. Switching energy per decision and the static current, for the power row.
*
* THE OVERDRIVE LADDER (standalone; no CDAC and no LSB to inherit).
*   dv_big   50 mV    the overdrive README.md's decision-time row is stated at
*   dv_mid    1 mV    a small overdrive, deep in the logarithmic regime
*   dv_tiny   0.1 mV  ~1 decade smaller again: the tau lever arm, and a
*                     near-metastable probe
* tau is extracted from the (mid, tiny) pair because both are inside the
* logarithmic region; the 50 mV rung is large-signal and sets t0.
*
* EVERY INSTANCE DECIDES BOTH WAYS, AND THAT IS WHAT MAKES THE MEASUREMENT
* ROBUST. Each input is a PWL that is NEGATIVE for the first strobe and
* POSITIVE for the second. The delay is therefore measured on a strobe where
* the output must actively flip a latch holding the OPPOSITE answer, so it
* cannot depend on which state the output happened to start in.
*
* TIMING THRESHOLDS ARE SUPPLY-NORMALIZED. Every delay triggers on a node
* divided by its own supply and crossed at 0.5 (the Bclkn/Bd*n sources
* below). A fixed absolute threshold would turn the +/-10 % supply axis into
* a measurement artefact.
*
* MISMATCH IS OFF (the plain `mos` corner set), deliberately. Regeneration
* time and offset are separable and are budgeted separately: offset shifts
* the input at which the decision flips (measured in
* sim/comparator-offset-mc/), while tau sets how fast a given overdrive
* resolves.
*
* This subckt-level behaviour (params g_reg/c_reg/... inside
* comparator_dut_latch) is supply-independent by construction -- every
* threshold there is expressed relative to v(vdd,vss) -- so the timing
* windows below (10 ns strobe spacing, 20 ns input flip) needed no rescaling
* for SG13G2's 1.2 V rail versus gf180-comparator's 3.3 V-class one; both
* PDKs' placeholder latches share the same tau = c_reg/(2*g_reg) ~ 50 ps by
* construction, confirmed by direct simulation during issue #8.

.param dv_big=50m
.param dv_mid=1m
.param dv_tiny=0.1m
.param t_flip=20n
.param c_route=10f

* ---- supplies --------------------------------------------------------
* Instance A gets its own supply so its switching charge can be integrated
* without the other two instances' current in the same integral.
vsup  vdd  0 dc {vdd_val}
vsupa vdda 0 dc {vdd_val}

* ---- clock: two strobes, decision measured on the second ---------------
vclk clk 0 pulse(0 {vdd_val} 10n 100p 100p 10n 30n)

* ---- common mode -----------------------------------------------------
vcm cm 0 dc {dut_vcm}

* ---- A: 50 mV overdrive, on its own supply ---------------------------
vsa  sa 0 pwl(0 {-dv_big} {t_flip} {-dv_big} {t_flip+1n} {dv_big})
Eapa apa cm sa 0 0.5
Eana ana cm sa 0 -0.5
iba  vdda ibna dc {dut_ib}
Xa   apa ana clk ibna douta doutba vdda 0 comparator_dut

* ---- B: 1 mV overdrive ------------------------------------------------
vsb  sb 0 pwl(0 {-dv_mid} {t_flip} {-dv_mid} {t_flip+1n} {dv_mid})
Eapb apb cm sb 0 0.5
Eanb anb cm sb 0 -0.5
ibb  vdd ibnb dc {dut_ib}
Xb   apb anb clk ibnb doutb doutbb vdd 0 comparator_dut

* ---- C: 0.1 mV overdrive (tau lever arm / metastability probe) --------
vsc  sc 0 pwl(0 {-dv_tiny} {t_flip} {-dv_tiny} {t_flip+1n} {dv_tiny})
Eapc apc cm sc 0 0.5
Eanc anc cm sc 0 -0.5
ibc  vdd ibnc dc {dut_ib}
Xc   apc anc clk ibnc doutc doutbc vdd 0 comparator_dut

* ---- supply-normalized probes ----------------------------------------
Bclkn clkn 0 v = 'v(clk)/v(vdd)'
Bdan  dan  0 v = 'v(douta)/v(vdda)'
Bdbn  dbn  0 v = 'v(doutb)/v(vdd)'
Bdcn  dcn  0 v = 'v(doutc)/v(vdd)'
